US07977351B2
5-Fluoro-3-[2-(4-hydroxy-piperidin-1-ylmethyl)-7H-furo[3,4-b]pyridin-5-ylidene]-1,3-dihydro-indol-2-one
A solution of 5-fluoro-1,3-dihydro-indol-2-one (110 mg, 0.72 mmol) in THF (5 mL) is treated with a solution of lithium bis(trimethylsilyl)amide (1.8 mL of a 1 M solution in THF, 1.8 mmol) dropwise. The resulting solution is stirred at room temperature for 10 min. A solution of 2-(5-Hydroxy-piperidin-2-ylmethyl)-7H-furo[3,4-b]pyridin-5-one (90 mg, 0.36 mmol) in THF (2.5 mL) is added dropwise to the reaction mixture. The resulting solution is stirred for 4 h and is poured into a cold 4 M HCl solution in dioxane (4.5 mL) at 0° C. The resulting mixture is stirred at room temperature overnight. The reaction mixture is concentrated to partially remove the dioxane and is then partitioned between EtOAc and saturated aqueous NaHCO3 solution. The organic phase is collected and the aqueous phase is extracted with additional EtOAc. The combined organic extracts are dried (Na2SO4), filtered and concentrated. The residue is purified by chromatography (silica gel) MeOH-Chloroform). The product containing fractions are concentrated to give the title compound as a yellow solid (41 mg, 30%).

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 0.72 mmol, 110 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-(5-Hydroxy-piperidin-2-ylmethyl)-7H-furo[3,4-b]pyridin-5-one | 0.36 mmol, 90 mg | OC1CCC(NC1)CC1=CC=C2C(=N1)COC2=O | C13H16N2O3
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 4.5 mL | O1CCOCC1 | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 5-Fluoro-3-[2-(4-hydroxy-piperidin-1-ylmethyl)-7H-furo[3,4-b]pyridin-5-ylidene]-1,3-dihydro-indol-2-one | 41 mg, 30% | FC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=NC(=CC=C21)CN2CCC(CC2)O | C21H20FN3O3
